US07199147B2
Sodium triacetoxyborohydride (477 mg, 2.25 mmol) and then acetic acid (99 μl, 1.73 mmol) were added to a suspension of 4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine (400 mg, 1.73 mmol) and 8-benzyl-8-azabicyclo[3.2.1]octan-3-one (410 mg, 1.90 mmol) in 1,2-dichloroethane (5 ml), and the resulting mixture was stirred at room temperature for 1 day. The reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution and then extracted with ethyl acetate. The extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=100/2) to obtain N-(8-benzyl-8-azabicyclo[3.2.1]oct-3-yl)-4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine (283 mg, 38%).

reactant | Sodium triacetoxyborohydride | 2.25 mmol, 477 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.73 mmol, 99 μl | C(C)(=O)O | C2H4O2
reactant | 4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine | 1.73 mmol, 400 mg | CC1=C2C=NN(C2=CC=C1N)C1OCCCC1 | C13H17N3O
reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one | 1.90 mmol, 410 mg | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | N-(8-benzyl-8-azabicyclo[3.2.1]oct-3-yl)-4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine | 283 mg, 38% | C(C1=CC=CC=C1)N1C2CC(CC1CC2)NC=2C(=C1C=NN(C1=CC2)C2OCCCC2)C | C27H34N4O
